US07301036B2
Step A. 4-chloro-N-methyl-2-nitroaniline
To a solution of 4-chloro-2-nitroaniline (10 mmol, 1.73 g) in DMF (10 mL) was added portionwise NaH (12 mmol, 480 mg of a 60% suspension in mineral oil) (exothermic, gas evolution). After 10 min MeI (20 mmol, 1.2 mL) was added to the reaction mixture. After 1 h the reaction mixture was poured into aqueous NaHCO3 and brine to afford the product as an orange precipitate, which was filtered, washed with water and dried in vacuo. H1 NMR (500 MHz, d6-DMSO): δ 8.22 (m, 1H), 8.02 (d, J=2.5 Hz, 1H), 7.56 (dd, J=9.1 Hz, 2.5 Hz, 1H), 7.02 (d, J=9.4 Hz, 1H), 2.94 (d, J=5.0 Hz, 3H).

reactant | 4-chloro-2-nitroaniline | 10 mmol, 1.73 g | ClC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | NaH | [H-].[Na+]
reactant | MeI | 20 mmol, 1.2 mL | CI | CH3I
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 4-chloro-N-methyl-2-nitroaniline | ClC1=CC(=C(NC)C=C1)[N+](=O)[O-] | C7H7ClN2O2
